US05496928
(1) Preparation of (R)-2-t-butoxycarbonylamino-1-hexanol
To a solution of Boc-DNle-OMe (4.23 g) in dry THF (30 ml) were added lithium chloride (0.85 g), sodium borohydride (0.76 g) and dry ethanol (60 ml), and the mixture was stirred at the same temperature for 2 h and at room temperature over night. The mixture was with ice-water, adjusted to pH 3 by the gradual addition of 10% aq. citric acid, and concentrated in vacuo. Water (200 ml) was added to the residue,and the mixture was extracted with dichloromethane (50 ml×3).

reactant | Boc-DNle-OMe | 4.23 g | N([C@H](CCCC)C(=O)OC)C(=O)OC(C)(C)C | C12H23NO4
reactant | lithium chloride | 0.85 g | [Cl-].[Li+]
reactant | sodium borohydride | 0.76 g | [BH4-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | (R)-2-t-butoxycarbonylamino-1-hexanol | C(C)(C)(C)OC(=O)N[C@@H](CO)CCCC | C11H23NO3
